US05457099
Preparation of 4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2-(1H)-quinolinone (III-2)
A suspension of 4-(2-bromethyl)-2-(1H)-quinolinone (II-2) (500 mg, 1.98 mmol), 3-(4-piperidinyl)-1H-indole (396.5 mg, 1.98 mmol) and sodium hydrogencarbonate (249.5 mg, 2.97 mmol) in dry dimethylformamide (5 ml) was react at 80 ° C. for 5 hours. The reaction mixture was poured into ice-water and the separated solid was filtered by aspiration. The residue was washed with water and recrystallized from methanol/tetrahydrofuran/water to give the desired product (336 mg) (III-2) as pale yellow crystals (mp 259°-260 ° C. (methanol/tetrahydrofuran/water)). Yield 45.7%.

reactant | 4-(2-bromethyl)-2-(1H)-quinolinone | 1.98 mmol, 500 mg | BrCCC1=CC(NC2=CC=CC=C12)=O | C11H10BrNO
reactant | 3-(4-piperidinyl)-1H-indole | 1.98 mmol, 396.5 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogencarbonate | 2.97 mmol, 249.5 mg | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[2-[4-(1H-indol-3-yl)-1-piperidinyl]ethyl]-2-(1H)-quinolinone | 336 mg, Yield 45.7% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC1=CC(NC2=CC=CC=C12)=O | C24H25N3O
